US06875765B2
To a solution of 3-fluoro-4-nitro-benzamide (1.0 g, 5.43 mmol) in tetrahydrofuran (55 mL) at room temperature was added 1-napthaleneethanol (1.02 g, 5.97 mmol) followed by potassium tert-butoxide (0.67 g, 5.97 mmol). The reaction was allowed to stir overnight at room temperature. The reaction was then diluted with ethyl acetate and washed with 1N hydrochloric acid (50 mL), saturated sodium bicarbonate (50 mL), and saturated sodium chloride (50 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure to yield a pale yellow solid. The powder was collected and washed with ether, followed by drying under reduced pressure to yield 3-(2-naphthalen-1-yl-ethoxy)-4-nitro-benzamide 1.09 g (60%). 1HNMR(300 MHz, DMSO) 8.13 (d, 2H), 7.91 (t, 2H), 7.88 (dd, 1H), 7.72(s, 1H), 7.64 (s, 1H), 7.41 (m, 5H), 4.50 (t, 2H), 3.54 (t, 2H). MS(APCI) m/z 335.1 (M−H). Anal. Calcd. for C19H16N2O4: C, 67.85; H, 4.79; N, 8.33. Found: C, 67.35; H, 4.53; N, 8.06.

reactant | 3-fluoro-4-nitro-benzamide | 5.43 mmol, 1.0 g | FC=1C=C(C(=O)N)C=CC1[N+](=O)[O-] | C7H5FN2O3
reactant | 1-napthaleneethanol | 5.97 mmol, 1.02 g | C1(=CC=CC2=CC=CC=C12)CCO | C12H12O
reactant | potassium tert-butoxide | 5.97 mmol, 0.67 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 55 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-naphthalen-1-yl-ethoxy)-4-nitro-benzamide | 1.09 g, 60% | C1(=CC=CC2=CC=CC=C12)CCOC=1C=C(C(=O)N)C=CC1[N+](=O)[O-] | C19H16N2O4
